US04564479
2 ml of the stock solution described in Example 23 are added to 18 ml of DMF. 9.77 g (50 mmols) of 4-chlorobromobenzene and 4.52 g (55 mmols) of anhydrous sodium acetate are then added. The reaction mixture is then placed under ethylene in a pressure apparatus and is stirred for 6 hours at 10 bar and 130° C. 3.62 g (26.1 mmols) of 4-chlorostyrene are obtained, corresponding to a yield of 52% of theory (conversion figure 5200; Pd content 0.01 mol %).

reactant | 4-chlorobromobenzene | 50 mmols, 9.77 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | sodium acetate | 55 mmols, 4.52 g | C(C)(=O)[O-].[Na+]
catalyst | Pd | [Pd] | Pd
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | 4-chlorostyrene | 26.1 mmols, 3.62 g, yield of 52% | ClC1=CC=C(C=C)C=C1 | C8H7Cl
